US04439514
Preparation of N,N'-bis-(α-methylbenzyl)-10,12-docosadiyndiamide
To a solution of 725 mg (2.00 mmol) of 10,12- docosadiyndioic acid in 50 ml THF was added 405 mg (4.00 mmol) of triethylamine. The solution was cooled to 0° C. and 378 mg (4.00 mmol) of methylchloroformate was added dropwise over one minute. The resulting white mixture was stirred one hour at 0° C., the 485 mg (4.00 mmol) of d(+, -α-methylbenzylamine was added. The reaction mixture was heated at reflux for one hour (gas evolution began immediately upon amine addition and ceased after 20 minutes). The mixture was cooled to room temperature and filtered. The filtrate was washed with 25 ml portions of 1 M HCl, water, and saturated aqueous sodium bicarbonate solution and dried (MgSO4). Evaporation yielded 842 mg (74% crude yield) of a white solid, which polymerized rapidly upon exposure to UV light. Recrystallization from ether-petroleum ether gave 456 mg of white crystals, m.p. 87.5°-89° C. I.R. (film): 1530, 1635, 2850, 2920, and 3300 cm-1.

reactant | 10,12- docosadiyndioic acid | 2.00 mmol, 725 mg | C(CCCCCCCCC#CC#CCCCCCCCCC(=O)O)(=O)O | C22H34O4
reactant | triethylamine | 4.00 mmol, 405 mg | C(C)N(CC)CC | C6H15N
reactant | methylchloroformate | 4.00 mmol, 378 mg | COC(=O)Cl | C2H3ClO2
reactant | α-methylbenzylamine | CC(C1=CC=CC=C1)N | C8H11N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N,N'-bis-(α-methylbenzyl)-10,12-docosadiyndiamide | 456 mg | CC(C1=CC=CC=C1)NC(CCCCCCCCC#CC#CCCCCCCCCC(=O)NC(C1=CC=CC=C1)C)=O | C38H52N2O2
